US05883106
B. 4-(2-Methylimidazol-1-yl)benzyl alcohol
To a solution of ethyl 4-(2-methylimidazol-1-yl)benzoate (46 g, 0.2 mol) in dry CH2Cl2 (1 l ) cooled to -75° C. under a nitrogen atmosphere was added diisobutyl-aluminum hydride (540 ml, 0.93M in hexane) carefully over 30 minutes and then the mixture was allowed to warm slowly to ambient temperature. After stirring for 5 hours the reaction mixture was cooled in an ice-bath and methanol (30 ml) carefully added. A 30% aqueous solution of Rochelle's salt (500 ml) was then added and the mixture stirred at ambient temperature for 16 hours. Insolubles (essentially product) were removed by filtration and the organic phase separated and washed with water (500 ml), dried (MgSO4) and evaporated. The combined resultant solids were recrystallized from ethanol (ca 300 ml) to afford the titled compound (35.6 g, 95%) as white needles.

reactant | ethyl 4-(2-methylimidazol-1-yl)benzoate | 0.2 mol, 46 g | CC=1N(C=CN1)C1=CC=C(C(=O)OCC)C=C1 | C13H14N2O2
reactant | diisobutyl-aluminum hydride | 0.93M, 540 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | 30 ml | CO | CH4O
reactant | Rochelle's salt | 500 ml | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | CH2Cl2 | 1 l | C(Cl)Cl | CH2Cl2
product | 4-(2-Methylimidazol-1-yl)benzyl alcohol | 35.6 g, 95% | CC=1N(C=CN1)C1=CC=C(CO)C=C1 | C11H12N2O
